US07544679B2
Air was bubbled for 1 hour at room temperature through a suspension of 15.0 g (72.7 mmol) diethylpropylmalonate and 47.6 g (145 mmol) cesium carbonate in 120 ml dimethylformamide. At 10-20° C. 150 ml water were added and stirring was continued at room temperature for 3 hours. Most of the dimethylformamide was then removed by vacuum distillation at 35° C. bath temperature. 1 l water was added and extraction with diethylether yielded 11.7 g 2-hydroxy-2-propyl-malonic acid monoethylester, MS (m/e): 189.1 (M−H)−.

reactant | diethylpropylmalonate | 72.7 mmol, 15.0 g | C(C)OC(C(C(=O)OCC)CCC)=O | C10H18O4
reactant | cesium carbonate | 145 mmol, 47.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 150 ml | O | H2O
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 2-hydroxy-2-propyl-malonic acid monoethylester | 11.7 g | C(C)OC(C(C(=O)O)(CCC)O)=O | C8H14O5
